US07897597B2
The method described in Part E of Example 1 can be used to treat 7-benzyloxy-4-chloro-3-nitroquinoline with tetrahydro-2H-pyran-4-ylmethylamine to provide (7-benzyloxy-3-nitroquinolin-4-yl)(tetrahydro-2H-pyran-4-ylmethyl)amine. The same method can be used to treat 6-benzyloxy-4-chloro-3-nitroquinoline with tetrahydro-2H-pyran-4-ylmethylamine to provide (6-benzyloxy-3-nitroquinolin-4-yl)(tetrahydro-2H-pyran-4-ylmethyl)amine.

reactant | 6-benzyloxy-4-chloro-3-nitroquinoline | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])Cl | C16H11ClN2O3
reactant | tetrahydro-2H-pyran-4-ylmethylamine | O1CCC(CC1)CN | C6H13NO
product | (6-benzyloxy-3-nitroquinolin-4-yl)(tetrahydro-2H-pyran-4-ylmethyl)amine | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1)[N+](=O)[O-])NCC1CCOCC1 | C22H23N3O4
